US09422281B2
A 100-mL round-bottom flask was purged with nitrogen and then charged with 3,3-difluorocyclobutyl (S)-4-acetyl-7-bromo-3-methyl-3,4-dihydroquinoxaline-1(2H)-carboxylate (300 mg, 0.70 mmol), tert-butyl 3-[4-(tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]azetidine-1-carboxylate (487 mg, 1.39 mmol), [1,1′-bis(diphenylphosphino) ferrocene]dichloropalladium(II) dichloromethane complex (69 mg, 0.08 mmol), cesium carbonate (456 mg, 1.40 mmol), 1,4-dioxane (10 mL) and water (3 mL). The resulting mixture stirred overnight at 90° C. in an oil bath. After cooling to room temperature, the resulting mixture was diluted with water (10 mL) and extracted with ethyl acetate (3×15 mL). The combined organic layers were dried over anhydrous sodium sulfate, filtered, and concentrated under vacuum. The residue was purified via column chromatography on silica gel (eluting with 8:1 ethyl acetate/petroleum ether) to afford 3,3-difluorocyclobutyl (S)-4-acetyl-7-(1-(1-(tert-butoxycarbonyl)azetidin-3-yl)-1H-pyrazol-4-yl)-3-methyl-3,4-dihydroquinoxaline-1(2H)-carboxylate (300 mg, 79%) as a yellow oil. MS (ESI, pos. ion) m/z 546 [M+H]+.

reactant | 3,3-difluorocyclobutyl (S)-4-acetyl-7-bromo-3-methyl-3,4-dihydroquinoxaline-1(2H)-carboxylate | 0.70 mmol, 300 mg | C(C)(=O)N1[C@H](CN(C2=CC(=CC=C12)Br)C(=O)OC1CC(C1)(F)F)C | C16H17BrF2N2O3
reactant | tert-butyl 3-[4-(tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]azetidine-1-carboxylate | 1.39 mmol, 487 mg | CC1(C(OB(O1)C=1C=NN(C1)C1CN(C1)C(=O)OC(C)(C)C)(C)C)C | C17H28BN3O4
reactant | cesium carbonate | 1.40 mmol, 456 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | water | 10 mL | O | H2O
solvent | water | 3 mL | O | H2O
product | 3,3-difluorocyclobutyl (S)-4-acetyl-7-(1-(1-(tert-butoxycarbonyl)azetidin-3-yl)-1H-pyrazol-4-yl)-3-methyl-3,4-dihydroquinoxaline-1(2H)-carboxylate | 300 mg, 79% | C(C)(=O)N1[C@H](CN(C2=CC(=CC=C12)C=1C=NN(C1)C1CN(C1)C(=O)OC(C)(C)C)C(=O)OC1CC(C1)(F)F)C | C27H33F2N5O5
